US03957783
A mixture of 10.0 g of 2-amino-3-benzoylthiophene, 16.57 g of ethyl carbamate and 1.00 g of zinc chloride is heated at 200°C for 1 hour. After cooling, the reaction mixture is washed with chloroform, then with water, and filtered to give a solid of 4-phenyl-1,2-dihydrothieno[2,3-d]pyrimidin-2-one. Recrystallization from a mixture of ethanol and dimethylformamide gives crystals having a melting point of 247° - 249°C.

reactant | 2-amino-3-benzoylthiophene | 10.0 g | NC=1SC=CC1C(C1=CC=CC=C1)=O | C11H9NOS
reactant | ethyl carbamate | 16.57 g | C(N)(OCC)=O | C3H7NO2
catalyst | zinc chloride | 1.00 g | [Cl-].[Zn+2].[Cl-]
product | 4-phenyl-1,2-dihydrothieno[2,3-d]pyrimidin-2-one | C1(=CC=CC=C1)C=1C2=C(NC(N1)=O)SC=C2 | C12H8N2OS
